US04558059
Synthesis of 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-methylcarboxamide
Into a mixed solvent of 80 ml of 40% methylamine and 600 ml of ethanol, 15.4 g of ethyl 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-carboxylate was dissolved, and then, in a similar manner as in Example 1, the object is obtained as colourless aciculate melting at 181.5° to 183° C. in an amount of 9.6 g corresponding to the yield of 66%.

reactant | methylamine | 80 ml | CN | CH5N
reactant | ethyl 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-carboxylate | 15.4 g | COC=1C=C(C=CC1OC)C=1SC(=C(N1)C)C(=O)OCC | C15H17NO4S
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)-4-methylthiazole-5-methylcarboxamide | yield of 66% | CC1=C(SC(=N1)C2=CC(=C(C=C2)OC)OC)C(=O)NC | C14H16N2O3S
